US07115615B2
6-methoxy-4-(2,3-methylenedioxyanilino)-7-(3-methylsulphonylpropoxy)quinazoline monohydrochloride salt
Diethyl azodicarboxylate (0.101 ml) was added dropwise to a stirred mixture of 7-hydroxy-6-methoxy-4-(2,3-methylenedioxyanilino)quinazoline (0.1 g), 3-methylsulphonylpropan-1-ol (0.057 g), triphenylphosphine (0.168 g) and methylene chloride (5 ml) and the reaction mixture was stirred at ambient temperature. After a few minutes further portions of triphenylphosphine (0.084 g) and 3-methylsulphonylpropan-1-ol (0.022 g) were added followed by the dropwise addition of diethyl azodicarboxylate (0.050 ml). After another few minutes third portions of the same amounts of these reagents were added. The reaction mixture was evaporated and the residue was purified by column chromatography on silica using a 10:6:1 mixture of methylene chloride, ethyl acetate and methanol as eluent. The material so obtained was triturated under a 6M solution of hydrogen chloride in diethyl ether. There was thus obtained the title compound (0.108 g) as a white solid; NMR Spectrum: (DMSOd6 and CF3CO2D) 2.3 (m, 2H), 3.05 (s, 3H), 3.35 (m, 2H), 4.0 (s, 3H), 4.35 (t, 2H), 6.1 (s, 2H), 7.0 (m, 3H), 7.3 (s, 1H), 8.1 (s, 1H), 8.15 (s, 1H); Mass Spectrum: M+H+ 432.

reactant | Diethyl azodicarboxylate | 0.101 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 7-hydroxy-6-methoxy-4-(2,3-methylenedioxyanilino)quinazoline | 0.1 g | OC1=C(C=C2C(=NC=NC2=C1)NC1=C2C(=CC=C1)OCO2)OC | C16H13N3O4
reactant | 3-methylsulphonylpropan-1-ol | 0.057 g | CS(=O)(=O)CCCO | C4H10O3S
reactant | triphenylphosphine | 0.168 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | triphenylphosphine | 0.084 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 3-methylsulphonylpropan-1-ol | 0.022 g | CS(=O)(=O)CCCO | C4H10O3S
reactant | diethyl azodicarboxylate | 0.050 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | 6-methoxy-4-(2,3-methylenedioxyanilino)-7-(3-methylsulphonylpropoxy)quinazoline monohydrochloride salt | 0.108 g | Cl.COC=1C=C2C(=NC=NC2=CC1OCCCS(=O)(=O)C)NC1=C2C(=CC=C1)OCO2 | InChI=1S/C20H21N3O6S.ClH/c1-26-17-9-13-15(10-18(17)27-7-4-8-30(2,24)25)21-11-22-20(13)23-14-5-3-6-16-19(14)29-12-28-16;/h3,5-6,9-11H,4,7-8,12H2,1-2H3,(H,21,22,23);1H
